US03979516
B. 3-Methylthio-5,6-bis(4-methoxyphenyl)-1,2,4-triazine.-
Eight grams (0.20 mole) of sodium hydroxide were dissolved in 600 ml. of ethanol by warming. The basic solution was cooled to room temperature and 67.0 grams (0.20 mole) of 3-mercapto-5,6-bis(4-methoxyphenyl)-1,2,4-triazine were added. Methyl iodide, 67 g. (0.47 mole), was added to the reaction mixture and the mixture immediately became a slurry. Three hundred milliliters of ethanol were added to the slurry and stirring was continued for about 3 hours. One hundred milliliters of water were added to the reaction mixture and the solid product was collected by filtration. The yield of 3-methylmercapto-5,6-bis(4-methoxyphenyl)-1,2,4-triazine, mp about 152°-155°C., was 67.3 g.

reactant | sodium hydroxide | 0.20 mole, Eight grams | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | 3-mercapto-5,6-bis(4-methoxyphenyl)-1,2,4-triazine | 0.20 mole, 67.0 grams | SC=1N=NC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C17H15N3O2S
reactant | Methyl iodide | CI | CH3I
reactant | ethanol | Three hundred milliliters | C(C)O | C2H6O
solvent | water | One hundred milliliters | O | H2O
product | 3-Methylthio-5,6-bis(4-methoxyphenyl)-1,2,4-triazine | CSC=1N=NC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C18H17N3O2S
